US07368578B2
To a solution of 3-methoxy-4-[(4-methyl-2-phenyl-1,3-thiazol-5-yl)methoxy]benzaldehyde (2.80 g) in tetrahydrofuran (50 mL)-ethanol (10 mL) was gradually added sodium borohydride (0.31 g) at room temperature. After stirring the reaction mixture at room temperature for 2 hrs, water was added, and the precipitated crystals were collected by filtration to give {3-methoxy-4-[(4-methyl-2-phenyl-1,3-thiazol-5-yl)methoxy]phenyl}methanol as colorless crystals (2.57 g, yield 92%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 152-153° C.

reactant | 3-methoxy-4-[(4-methyl-2-phenyl-1,3-thiazol-5-yl)methoxy]benzaldehyde | 2.80 g | COC=1C=C(C=O)C=CC1OCC1=C(N=C(S1)C1=CC=CC=C1)C | C19H17NO3S
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.31 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | {3-methoxy-4-[(4-methyl-2-phenyl-1,3-thiazol-5-yl)methoxy]phenyl}methanol | 2.57 g, yield 92% | COC=1C=C(C=CC1OCC1=C(N=C(S1)C1=CC=CC=C1)C)CO | C19H19NO3S
